US04851526
1-[2-(3,4-Dimethoxyphenyl)ethyl]-α-[4-(1H-imidazol-1-yl)-phenyl]azetidine-3-methanol
In a manner similar to Example 27, react [1-[2-(3,4-dimethoxyphenyl)ethyl]azetidin-3-yl][4-(1H-imidazol-yl)phenyl]methanone with sodium borohydride to obtain the title compound.

reactant | [1-[2-(3,4-dimethoxyphenyl)ethyl]azetidin-3-yl][4-(1H-imidazol-yl)phenyl]methanone | COC=1C=C(C=CC1OC)CCN1CC(C1)C(=O)C1=CC=C(C=C1)N1C=NC=C1 | C23H25N3O3
reactant | sodium borohydride | [BH4-].[Na+]
product | 1-[2-(3,4-Dimethoxyphenyl)ethyl]-α-[4-(1H-imidazol-1-yl)-phenyl]azetidine-3-methanol | COC=1C=C(C=CC1OC)CCN1CC(C1)C(O)C1=CC=C(C=C1)N1C=NC=C1 | C23H27N3O3
